* P0 smoke test: NDMOS20V op at T=27 C, then T=125 C
.include "../autohv_bicmos180_case.lib"
.param case=0
.param PROC_ON=1
.param MM_ON=1
Vd d 0 3
Vg g 0 2.5
XND20 d g 0 NDMOS20V W=20u
.control
op
echo OK_AT_27
set temp=125
op
echo OK_AT_125
quit
.endc
.end
